US06251926B1
A 1N aqueous saturated solution of sodium hydroxide (5 ml) was added to a solution of ethyl E-4-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]-4-(2-pyridyl)butyrate (520 mg) in tetrahydrofuran (10 ml)-methanol (5 ml) and stirred at room temperature for 1 hour. 1N hydrochloric acid (5.5 ml) was added to the reaction mixture and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The residue was recrystallized from ethyl acetate-hexane to obtain E-4-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]-4-(2-pyridyl)butyric acid (425 mg, yield 87%) as colorless crystals. m.p. 116-117° C.

reactant | sodium hydroxide | 5 ml | [OH-].[Na+]
reactant | ethyl E-4-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]-4-(2-pyridyl)butyrate | 520 mg | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CO\N=C(/CCC(=O)OCC)\C2=NC=CC=C2)C=C1 | C29H29N3O5
reactant | methanol | 5 ml | CO | CH4O
reactant | hydrochloric acid | 1N, 5.5 ml | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | E-4-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]-4-(2-pyridyl)butyric acid | 425 mg, yield 87% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CO\N=C(/CCC(=O)O)\C2=NC=CC=C2)C=C1 | C27H25N3O5
